US07645771B2
Preparation of [3-(1-(2,2-dimethylpropanoyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-piperidinyl)phenyl]methanol
[3-(4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-piperidinyl) phenyl]methanol dihydrochloride (0.100 g, 0.188 mmol), Dimethyl-propionyl chloride (0.024 g, 0.188 mmol) and DIEA (0.069 g, 0.534 mmol) were stirred at room temperature in DCM (3 ml) for 2 hours. Solvent was removed and compound was purified by RP-HPLC to give the title compound, [3-(1-(2,2-dimethylpropanoyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-piperidinyl)phenyl]methanol (0.069 g, 71%). ES-LCMS m/z 543 (M+1).

reactant | [3-(4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-piperidinyl) phenyl]methanol dihydrochloride | 0.188 mmol, 0.100 g | Cl.Cl.CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CCNCC3)C=3C=C(C=CC3)CO)C=CC=C2
reactant | Dimethyl-propionyl chloride | 0.188 mmol, 0.024 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | DIEA | 0.534 mmol, 0.069 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | [3-(1-(2,2-dimethylpropanoyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-piperidinyl)phenyl]methanol | 0.069 g, 71% | CC(C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C=1C=C(C=CC1)CO)(C)C | C34H46N4O2
